* C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\Controller.asc
V1 Vcc 0 20
XU1 vOO N003 NC_01 0 N007 N006 0 Vcc Vpwm Vpwm Vcc Vcc 0 NC_02 N005 vOO TL494
R2 0 N006 6.8k
C1 0 N007 1n
R1 vOO 0 2.5k
C2 vOO 0 2.2µ Rser=1m
V4 N001 0 10.4
V2 N003 0 3.3
V3 N005 0 3.3
L1 N002 vOO 20µ Rser=56m
D1 0 N002 1N5819
M1 N001 N004 N002 N002 NMOS
B1 N004 0 V=4*V(Vpwm)
.model D D
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m uic
.lib eigene/TL494.sub
.backanno
.end
